US04895861
(Step 3) Preparation of (5-Bromo-2-naphthalenyl)acetonitrile
A suspension of 5-bromo-2-bromomethylnaphthalene (4.50 g, 15 mmol) and NaCN (784 mg, 16 mmol) in 9:1 CH3CN/H2O (150 mL) was heated to reflux for 1 hour during which time the reaction mixture became homogeneous. The solution was cooled to room temperature and the volatiles removed in vacuo. The aqueous residue was partitioned between H2O (200 mL) and CH2Cl2 (200 mL). The aqueous phase was further washed with CH2Cl2 (1×200 mL) and the combined organic layers dried (Na2SO4) and concentrated in vacuo to give the product as a white solid (3.66 g, 99%). This material was of sufficient purity to be used as such without purification.

reactant | 5-bromo-2-bromomethylnaphthalene | 15 mmol, 4.50 g | BrC1=C2C=CC(=CC2=CC=C1)CBr | C11H8Br2
reactant | NaCN | 16 mmol, 784 mg | [C-]#N.[Na+]
solvent | CH3CN H2O | 150 mL | CC#N.O
product | (5-Bromo-2-naphthalenyl)acetonitrile | 3.66 g, 99% | BrC1=C2C=CC(=CC2=CC=C1)CC#N | C12H8BrN
